US06753322B2
N-(2-{[({2-[Cyclohexyl(isopropyl)amino]ethyl}amino)carbonyl]amino}ethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2carboxamide
Prepared from N-(2-aminoethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide (Preparation 10) and N-{2-[cyclohexyl(isopropyl)amino]ethyl}1H-imidazole-1-carboxamide (Preparation 29) by a similar method to Example 1.

reactant | N-(2-aminoethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N8O5
reactant | N-{2-[cyclohexyl(isopropyl)amino]ethyl}1H-imidazole-1-carboxamide | C1(CCCCC1)N(CCNC(=O)N1C=NC=C1)C(C)C | C15H26N4O
product | N-(2-{[({2-[Cyclohexyl(isopropyl)amino]ethyl}amino)carbonyl]amino}ethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2carboxamide | C1(CCCCC1)N(CCNC(=O)NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C | C41H56N10O6
